US07745477B2
b) Preparation of (4-tert-butylbenzyl)-[2-(3-chloro-5-cyclopropylphenyl)-ethyl]-amine
The title compound was synthesized in analogy to example S6-C using 1-bromo-3-chloro-5-cyclopropylbenzene (96 mg, 0.71 mmol) and 3-(4-tert-butylbenzyl)-[1,2,3]oxathiazolidine 2,2-dioxide (36 mg, 0.89 mmol). The residue was purified by flash column chromatography to give the desired product (155 mg, 39%) as a colorless oil. MS (ISP) 342.2 (M+H)+.

reactant | 1-bromo-3-chloro-5-cyclopropylbenzene | 0.71 mmol, 96 mg | BrC1=CC(=CC(=C1)C1CC1)Cl | C9H8BrCl
reactant | 3-(4-tert-butylbenzyl)-[1,2,3]oxathiazolidine 2,2-dioxide | 0.89 mmol, 36 mg | C(C)(C)(C)C1=CC=C(CN2S(OCC2)(=O)=O)C=C1 | C13H19NO3S
product | (4-tert-butylbenzyl)-[2-(3-chloro-5-cyclopropylphenyl)-ethyl]-amine | 155 mg, 39% | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=CC(=C2)C2CC2)Cl)C=C1 | C22H28ClN
